US07320992B2
To a solution of methyl 2-bromomethyl-6-nitro-benzoate (0.73 mmol, 1 eq.) and t-BuOH (3 mL) in a sealed reaction vial was added 4-t-butylaniline (0.73 mmol, 1 eq) and DIEA (0.38 mL, 3 eq). The reaction was stirred at RT for 30 min then heated at 170° C. for 10 min in a microwave. A yellow solid was filtered and washed with t-BuOH and H2O then dried under high-vacuum to afford 2-(4-tert-butyl-phenyl)-7-nitro-2,3-dihydro-isoindol-1-one. MS m/e 311 (M+H)+.

reactant | methyl 2-bromomethyl-6-nitro-benzoate | 0.73 mmol, 1 eq. | BrCC1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C9H8BrNO4
reactant | 4-t-butylaniline | 0.73 mmol, 1 eq | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | DIEA | 0.38 mL, 3 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | t-BuOH | 3 mL | CC(C)(C)O | C4H10O
product | 2-(4-tert-butyl-phenyl)-7-nitro-2,3-dihydro-isoindol-1-one | C(C)(C)(C)C1=CC=C(C=C1)N1C(C2=C(C=CC=C2C1)[N+](=O)[O-])=O | C18H18N2O3
